US07214824B2
N-((1R)-1-{3-Methyl-4-[(methylsulfonyl)amino]phenyl}ethyl)-2-[4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetamide
To a N,N-dimethylformamide (DMF) (3 ml) solution of [4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetic acid (131 mg, 0.5 mmol) and N-{4-[(1R)-1-aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride (132 mg, 0.5 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (144 mg, 0.75 mmol), 1-hydroxybenzotriazole (HOBt) monohydrate (85 mg, 0.55 mmol) and triethylamine (0.21 ml) were added and the mixture was stirred for 2 hours at ambient temperature. The reaction mixture was then quenched with saturated aqueous solution of sodium bicarbonate and then crude products were extracted with ethyl acetate. The organic layer was then washed with brine, dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane=1/1 to furnish 92 mg (39% yield) of the title compound as a white solid.

reactant | [4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetic acid | 0.5 mmol, 131 mg | FC(C(C)(C)C1=CC=C(OCC(=O)O)C=C1)(F)F | C12H13F3O3
reactant | N-{4-[(1R)-1-aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride | 0.5 mmol, 132 mg | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.75 mmol, 144 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.55 mmol, 85 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-((1R)-1-{3-Methyl-4-[(methylsulfonyl)amino]phenyl}ethyl)-2-[4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetamide | 92 mg, 39% yield | CC=1C=C(C=CC1NS(=O)(=O)C)[C@@H](C)NC(COC1=CC=C(C=C1)C(C(F)(F)F)(C)C)=O | C22H27F3N2O4S
